US04423070
3',4'-Bis(pivaloyloxy)propiophenone was first prepared as a mobile liquid (63.6 g.), in a similar manner to 3',4'-bis(pivaloyloxy)acetophenone in Example 1, starting from 3',4'-dihydroxypropiophenone (40 g.), pivaloylchloride (63.3 ml.) and triethylamine (73.2 ml.). This mobile liquid (40.1 g.) was then reacted with bromine (7.2 ml.) in a similar manner to that used in Example 1 to obtained 2-bromo-3',4'-bis(pivaloyloxy)acetophenone. The crude bromo compound thus obtained was purified by dry column chromatography on silica gel as described in Example 1 to give pure 2-bromo-3',4'-bis(pivaloyloxy)propiophenone as a solid (18.4 g.), m.p. 58°-60° C.

reactant | 3',4'-Bis(pivaloyloxy)propiophenone | C(C(C)(C)C)(=O)OC=1C=C(C=CC1OC(C(C)(C)C)=O)C(CC)=O | C19H26O5
reactant | 3',4'-bis(pivaloyloxy)acetophenone | C(C(C)(C)C)(=O)OC=1C=C(C=CC1OC(C(C)(C)C)=O)C(C)=O | C18H24O5
reactant | 3',4'-dihydroxypropiophenone | 40 g | OC=1C=C(C=CC1O)C(CC)=O | C9H10O3
reactant | pivaloylchloride | 63.3 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | bromine | 7.2 ml | BrBr | Br2
solvent | triethylamine | 73.2 ml | C(C)N(CC)CC | C6H15N
product | 2-bromo-3',4'-bis(pivaloyloxy)acetophenone | BrCC(=O)C1=CC(=C(C=C1)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C18H23BrO5
